US06852863B2
2-(4-{[(3-Carboxymethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester
To a solution of 2-(4-{[(3-tert-butoxycarbonylmethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester (138 mg, 0.237 mmol) in MeOH (5 mL) was added aqueous NaOH (2N, 0.36 mL, 0.72 mmol). The reaction was heated at 100° C. for 1 h and was cooled to room temperature. The reaction was concentrated in vacuo and was diluted with water and EtOAc. The pH was adjusted to about 5 with 1N HCl. The aqueous solution was washed with EtOAc (3×). The combined organic solutions were dried (MgSO4), filtered, and concentrated. Sodium chloride was added to the aqueous solution and the solution was washed with EtOAc (3×). The combined organic solutions were dried (MgSO4), filtered, and concentrated. The combined title compound (104 mg) was used in the next step without further purification. MS 527 (M+1).

reactant | 2-(4-{[(3-tert-butoxycarbonylmethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester | 0.237 mmol, 138 mg | C(C)OC(C(C)(C)C1=CC=C(C=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC(=CC=C1)OCC(=O)OC(C)(C)C)=O | C31H38N2O7S
reactant | NaOH | 0.72 mmol, 2N, 0.36 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(4-{[(3-Carboxymethoxy-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC=C(C=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC(=CC=C1)OCC(=O)O)=O | C27H30N2O7S
